US04772597
1-Formyl-3-piperidinyl Thioacetate
A solution of 1-formyl-3-piperidinyl p-toluenesulfonate (1.12 g., 0.007 mole) and potassium thioacetate (0.91 g., 0.008 mole) in 10 ml. dimethylformamide was heated at 70° C. under nitrogen for 20 hours. The reaction mixture was diluted with 150 ml. ethyl acetate and the resulting solution was washed with four 50 ml. portions of water and 50 ml. brine, dried over anhydrous sodium acetate and concentrated in vacuo. The residue was chromatographed on silica gel (125 g.) eluting with 4:1 ethyl acetate-hexane to yield 0.16 g. (21% yield) of the title compound. NMR (CDCl3): 1.13-2.3 (c) and 2.32 (s) (total 7H); 2.84-4.0 (c, 5H); and 7.9 (d, 1H)ppm.

reactant | 1-formyl-3-piperidinyl p-toluenesulfonate | 0.007 mole, 1.12 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CN(CCC1)C=O)C | C13H17NO4S
reactant | potassium thioacetate | 0.008 mole, 0.91 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Formyl-3-piperidinyl Thioacetate | 21% yield | C(C)(=S)OC1CN(CCC1)C=O | C8H13NO2S
